US05175157
2-[(N-(1-(Pyrid-4-yl)-methyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-monohydrate
Prepared from 6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline in dimethylsulphoxide with potassium tert.butoxide and 3-chloromethyl-N-[1-(pyrid-4-yl)-methyl]-piperidine analogously to Example 2.

reactant | 6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | COC=1C=C2CCNC(C2=CC1OC)=O | C11H13NO3
reactant | potassium tert.butoxide | CC(C)([O-])C.[K+]
reactant | 3-chloromethyl-N-[1-(pyrid-4-yl)-methyl]-piperidine | ClCC1CN(CCC1)CC1=CC=NC=C1 | C12H17ClN2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 2-[(N-(1-(Pyrid-4-yl)-methyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-monohydrate | O.Cl.Cl.N1=CC=C(C=C1)CN1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C23H29N3O3.2ClH.H2O/c1-28-21-12-19-7-11-26(23(27)20(19)13-22(21)29-2)16-18-4-3-10-25(15-18)14-17-5-8-24-9-6-17;;;/h5-6,8-9,12-13,18H,3-4,7,10-11,14-16H2,1-2H3;2*1H;1H2
